US09062048B2
Step E: 7-(trifluoromethyl)isoquinolin-1-amine
A mixture of 1-phenoxy-7-(trifluoromethyl)isoquinoline (670 mg, 2.3 mmol), from above step D, and ammonium acetate (1.8 g, 23 mmol) was heated at 160° C. for 4 h. The mixture was cooled to room temperature and dissolved in water. Sodium hydroxide (1N solution) was added until the solution was basic and extracted with EtOAc (x4). The combined organic fractions were washed with saturated NaCl, dried over Na2SO4 and evaporated under vacuum to give the title compound.

reactant | 1-phenoxy-7-(trifluoromethyl)isoquinoline | 2.3 mmol, 670 mg | O(C1=CC=CC=C1)C1=NC=CC2=CC=C(C=C12)C(F)(F)F | C16H10F3NO
reactant | ammonium acetate | 23 mmol, 1.8 g | C(C)(=O)[O-].[NH4+]
reactant | Sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 7-(trifluoromethyl)isoquinolin-1-amine | FC(C1=CC=C2C=CN=C(C2=C1)N)(F)F | C10H7F3N2
